US08426449B2
Step 4: (3-{2-[(Acetyl-ethyl-amino)-methyl]-4-bromo-phenoxy}-4-methoxy-phenyl)-acetic acid methyl ester
Prepared according to the procedure described in Example 3, Step 3, using the following starting materials: [3-(4-bromo-2-ethylaminomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester and acetyl chloride.

reactant | [3-(4-bromo-2-ethylaminomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CNCC)=O | C19H22BrNO4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (3-{2-[(Acetyl-ethyl-amino)-methyl]-4-bromo-phenoxy}-4-methoxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CN(CC)C(C)=O)=O | C21H24BrNO5
